US06352993B1
Step 2: N-(4-hydroxyphenylethyl)acetamide
A solution of sodium hydroxide(2.3 g, 58 mmol) in water(20 ml) was cooled to 0° C. A solution of N-(4-acetoxyphenylethyl)acetamide(6.4 g, 29 mmol) in methanol(40 ml) was added dropwise to the soultion, stirred for 10 minutes, adjusted to pH 1 with hydrochloric acid, and then extracted 3 times with ethyl acetate. The extract was washed with water, dried over anhydrous magnesium sulfate and concentrated. The resulting oily residue was solidified with ethyl ether, filtered, and dried to give 4.4 g of the titled compound.

reactant | sodium hydroxide | 58 mmol, 2.3 g | [OH-].[Na+]
reactant | N-(4-acetoxyphenylethyl)acetamide | 29 mmol, 6.4 g | C(C)(=O)OC1=CC=C(C=C1)CCNC(C)=O | C12H15NO3
reactant | hydrochloric acid | Cl | ClH
solvent | water | 20 ml | O | H2O
solvent | methanol | 40 ml | CO | CH4O
product | N-(4-hydroxyphenylethyl)acetamide | 4.4 g | OC1=CC=C(C=C1)CCNC(C)=O | C10H13NO2
